US07572809B2
Similar procedure as described in example 131 was used, starting from (1-chloro-isoquinolin-3-yl)-(1H-pyrazol-3-yl)-amine and 3-ethoxycarbonyl-phenylboronic acid to give 3-[3-(1H-pyrazol-3-ylamino)-isoquinolin-1-yl]-benzoic acid ethyl ester. LC-MS m/e 359(MH+).

reactant | (1-chloro-isoquinolin-3-yl)-(1H-pyrazol-3-yl)-amine | ClC1=NC(=CC2=CC=CC=C12)NC1=NNC=C1 | C12H9ClN4
reactant | 3-ethoxycarbonyl-phenylboronic acid | C(C)OC(=O)C=1C=C(C=CC1)B(O)O | C9H11BO4
product | 3-[3-(1H-pyrazol-3-ylamino)-isoquinolin-1-yl]-benzoic acid ethyl ester | C(C)OC(C1=CC(=CC=C1)C1=NC(=CC2=CC=CC=C12)NC1=NNC=C1)=O | C21H18N4O2
